US06617339B1
3,5-Difluoro-4-(1-methyl-4-hydroxyhexahydropyrid-4-yl)-aniline
To a stirred solution of 3,5-difluoroaniline (7.0 g, 54 mmol) in anhydrous THF (250 ml) under an atmosphere of nitrogen and cooled to −74° C. was added dropwise nBuLi (1.45M in hexanes, 78.6 ml, 0.114 mol) over a period of 10 minutes. The reaction was allowed to stir at −74° C. for 30 minutes. Chlorotrimethylsilane (12.4 g, 0.114 mol), in anhydrous THF (100 ml) was added dropwise over a period of 10 minutes. The solution was allowed to warm to ambient temperature and then stir for 40 minutes. The reaction was then cooled again to −74° C. and nBuLi (1.45M in hexanes, 43.0 ml, 62.4 mmol) was added dropwise over a period of 10 minutes. After stirring for a further 3.5 hours at −74° C., N-methyl-4-piperidone (7.90 g, 70.5 mmol) in anhydrous THF (50 ml) was added dropwise over a period of 10 minutes. The reaction was allowed to stir to ambient temperature over the weekend. The reaction was acidified with 10% HCl to pH<1 and extracted with diethyl ether. The aqueous phase was separated and treated with 40% NaOH to pH 12 then extracted with diethyl ether and the combined organic phases were washed with sat NaCl and then dried over MgSO4 and evaporated under reduced pressure. The resulting brown oil was triturated with cyclohexane to give the title compound as a pale yellow solid (9.30 g, 71%).

reactant | 3,5-difluoroaniline | 54 mmol, 7.0 g | FC=1C=C(N)C=C(C1)F | C6H5F2N
reactant | nBuLi | 0.114 mol, 1.45M, 78.6 ml | [Li]CCCC
reactant | Chlorotrimethylsilane | 0.114 mol, 12.4 g | Cl[Si](C)(C)C | C3H9ClSi
reactant | nBuLi | 62.4 mmol, 1.45M, 43.0 ml | [Li]CCCC
reactant | N-methyl-4-piperidone | 70.5 mmol, 7.90 g | CN1CCC(CC1)=O | C6H11NO
reactant | HCl | Cl | ClH
solvent | THF | 250 ml | C1CCOC1 | C4H8O
solvent | THF | 100 ml | C1CCOC1 | C4H8O
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | 3,5-Difluoro-4-(1-methyl-4-hydroxyhexahydropyrid-4-yl)-aniline | 9.30 g, 71% | FC=1C=C(N)C=C(C1C1(CCN(CC1)C)O)F | C12H16F2N2O
